2148-09-13 07:25:00 Physician Resident Progress Note
Chief Complaint:   Denies shortness of breath this morning.  Further
   denies any pain.  Reports he is thirsty and would like some water.
   24 Hour Events:
 EKG - At [**2148-9-12**] 09:28 PM
 FEVER - 101.2
F - [**2148-9-12**] 01:30 PM
   SBPs drifted down early this am for which he received 500cc bolus of
   NS.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-12**] 04:21 PM
   Antibiotics:  Day 2 of ceftazidime and Vancomycin.
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-13**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38
C (100.4
   HR: 97 (90 - 123) bpm
   BP: 105/52(65) {74/30(41) - 132/91(100)} mmHg
   RR: 29 (25 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
             Total In:
                                                                    876 mL
                                                                  1,241 mL
   PO:
             TF:
   IVF:
                                                                    876 mL
                                                                  1,241 mL
   Blood products:
   Total out:
                                                                    478 mL
                                                                    175 mL
   Urine:
                                                                    478 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    398 mL
                                                                  1,066 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen:  Elderly gentleman lying in bed in NAD.
   HEENT:  PERRL, dry MM.
   Neck:  supple.
   CV:  Borderline sinus tachy, no mrg appreciated.
   Resp:  rhonchorus right lung base, but without wheezing and rales.
   Abd:  +BS, soft, NT, ND.
   Ext:  Venodynes in place, no c/c/e, palpable DP and PT pulses
   bilaterally.
   Skin:  No rashes noted.
   Neuro:  HOH.  Strength intact grossly.  Somnolent however easily
   arousable.  Not oriented to place nor date (says he is at a restaurant
   and the year is [**2145**]), easily redirectable and is able to repeat when
   reminded of location and date.
   Labs / Radiology
   306 K/uL
   9.5 g/dL
   87 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.6 mEq/L
   15 mg/dL
   108 mEq/L
   146 mEq/L
   28.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2148-9-2**]  04:09 AM
                             [**2148-9-2**]  02:26 PM
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
                             [**2148-9-5**]  04:05 AM
                             [**2148-9-6**]  04:16 AM
                             [**2148-9-8**]  05:23 AM
                             [**2148-9-9**]  05:30 AM
                             [**2148-9-13**]  01:25 AM
   WBC
   5.9
   6.8
   6.3
   9.5
   9.3
   9.7
   9.4
   10.0
   Hct
   27.7
   29.8
   29.8
   32.7
   31.3
   31.1
   30.3
   28.4
   Plt
   199
   227
   282
   333
   [**Telephone/Fax (2) 1398**]06
   Cr
   1.0
   1.0
   1.0
   1.1
   1.1
   1.2
   1.1
   1.3
   TCO2
   32
   33
   Glucose
   96
   90
   81
   93
   78
   81
   96
   87
   Other labs: PT / PTT / INR:14.5/34.6/1.3, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:61.3 %,
   Lymph:14.7 %, Mono:6.8 %, Eos:17.1 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:9.5 mg/dL, Mg++:1.5 mg/dL, PO4:3.2
   mg/dL
   A/P:  87 yo male with history of MRSA PNA, TBM, and recent respiratory
   failure, now s/p Y-stenting and course of antibiotics, called out to
   floor multiple times but with repeat episodes of mucus plugging, now
   transferred back to the ICU for a likely mucus plug.
   .
   #. Tachypnea/Hypoxia:  Currently much improved on 2L NC after deep
   suctioning by IP yesterday.  Secretions with 4+ PMNs and 2+ GPCs;
   cultures pending.  Pt with recent HCAP MRSA PNA, ongoing severe TBM,
   and copious secretions causing mucus plugging. Does have RLL infiltrate
   concerning for recurrent aspiration.
   -- NAC nebs, albuterol + ipratropium nebs standing
   -- guaifenacin standing
   -- chest PT
   -- frequent deep suctioning, ok'ed by IP
   -- HOB elevation, aspiration precautions
   -- continue vanco/ceftaz currently given persistent purulent
   secretions, fever, and RLL infiltrate on CXR.
   .
   # Fever:  Likely due to recurrent PNA.  No clear other source although
   has had 10-100K yeast on several urine cultures previously and it is
   unclear whether foley has been changed.  No other clear source of
   infection although blood, stool, c. diff pending.
   -- continue empiric coverage with vanc/ceftaz
   -- f/u sputum, blood, stool, urine cx
   -- change foley catheter and remove asap when MS improves further
   .
   # Hypernatremia:  Sodium mildly elevated to 146 likely due to NPO and
   inability to drink free water.  Free water deficit of 2L.
   - 150cc/hour of D5 1/2 NS
   .
   # Delirium/dementia:  acute decompensation may be related to mucus plug
   and associated infection, through ongoing delirium is more related to
   prolonged hospital course and ICU stays.
   -- infectious workup as above
   -- prn zyprex and haldol
   -- encourage reorientation
   -- avoid benzos
   -- organic w/u (TSH, RPR, B12) is negative.
   .
   # CRI:  Mild with baseline creatinine 1.0-1.2 generally, now up to
   1.4->1.3 yesterday and today.  Again, as above, suspect free water down
   given above and will given IVFs as outlined.
   -- D5 1/2NS for total of 2L
   -- renally dose meds as indicated
   .
   #. Anemia: In review of labs (granted only have labs beginning [**8-29**] in
   our system), baseline hct appears to run high 20s-low 30s.  Normal MCV,
   elevated RDW.  B12 and folate normal on this admission.  Iron studies
   not checked. Suspect largely AOCD.
   -- continue to monitor given stability in hct
   -- check iron studies
   .
   # FEN: pt removed his Dobhoff tube on the floor. He is thirsty and free
   water down as outlined above.  Speech and swallow has evaluated and are
   to evaluate again this am.  Clear concern for aspiration given mental
   status somewhat waxing/[**Doctor Last Name 226**] and RLL infiltrate.
   -- Speech and swallow eval this am
   -- Dobhoff replacement if does not pass S+S
   -- re c/s S/S when MS clears
   -- Repleting K and Mg
   -- D5 1/2NS as above.
   .
   # Access:
   -- PIV
   .
   # Ppx:
   -- Heparin SQ, no indication for PPI so will d/c.
   .
   # Code Status:
   -- Full Code, has been confirmed with HCP
   .
   # Contact Info: [**Name2 (NI) 838**]:  Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**]. Son ([**Known firstname **]) [**Telephone/Fax (1) 841**] (home)
   .
   # Dispo:  call out to floor however will absolutely need continued
   maintenance care including q2h suctioning and chest PT to prevent
   repeat mucous plugging.
   ICU Care: As outlined above.

2148-09-13 08:52:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2148-9-12**] 09:28 PM
 FEVER - 101.2
F - [**2148-9-12**] 01:30 PM
   Bursts of paroxy Afib
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2148-9-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-12**] 04:21 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2148-9-13**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38
C (100.4
   HR: 97 (90 - 123) bpm
   BP: 105/52(65) {74/30(41) - 132/91(100)} mmHg
   RR: 29 (25 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
             Total In:
                                                                    876 mL
                                                                  1,281 mL
   PO:
             TF:
   IVF:
                                                                    876 mL
                                                                  1,281 mL
   Blood products:
   Total out:
                                                                    478 mL
                                                                    175 mL
   Urine:
                                                                    478 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    398 mL
                                                                  1,106 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen: confused elderly man, conversant
   HEENT: dry o/p
   Neck: supple
   CV: tachy RR
   Chest: coarse  inspr rhonchi, no wheezes
   Abd: soft, NT +BS
   Ext: thin, no edema
   Neuro: conversant but confused, able to follow simple commands,
   Labs / Radiology
   9.5 g/dL
   306 K/uL
   87 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.6 mEq/L
   15 mg/dL
   108 mEq/L
   146 mEq/L
   28.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2148-9-2**]  04:09 AM
                             [**2148-9-2**]  02:26 PM
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
                             [**2148-9-5**]  04:05 AM
                             [**2148-9-6**]  04:16 AM
                             [**2148-9-8**]  05:23 AM
                             [**2148-9-9**]  05:30 AM
                             [**2148-9-13**]  01:25 AM
   WBC
   5.9
   6.8
   6.3
   9.5
   9.3
   9.7
   9.4
   10.0
   Hct
   27.7
   29.8
   29.8
   32.7
   31.3
   31.1
   30.3
   28.4
   Plt
   199
   227
   282
   333
   [**Telephone/Fax (2) 1398**]06
   Cr
   1.0
   1.0
   1.0
   1.1
   1.1
   1.2
   1.1
   1.3
   TCO2
   32
   33
   Glucose
   96
   90
   81
   93
   78
   81
   96
   87
   Other labs: PT / PTT / INR:14.5/34.6/1.3, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:61.3 %,
   Lymph:14.7 %, Mono:6.8 %, Eos:17.1 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:9.5 mg/dL, Mg++:1.5 mg/dL, PO4:3.2
   mg/dL
   MICRO:  BAL 4+ PMNs, 2+ GPCs
   CXR: RLL increasing opacity
   Assessment and Plan 87 yr old man with recurrent resp distress
   1.       Resp Distress: due to mucus plugging and inadequate pulmonary
   toilet, early PNA with CXR changes. Could be a post obs PNA VAP or asp
   PNA
 on  Vanco and Ceftaz, follow up BAL by IP
   2.       Fevers: likely PNA as outlined above, but also with pyuria- so
   follow up urine cx, and blood cx as well
   3.       ARF: likely pre renal with poor intake over past few days,
   will hydrate, trend UOP and Cr
   4.       HyperNatremia: free water replete today
   5.       Delirium: in setting of infection
 trying to minimize meds
   and work with redirection
 can use po Zyprexa 2.5 instead of 5mg
   6.       Nutrition: failed swallowing study, needs reval and if fails
   dophoff
   Remainder of issues as per Housestaff Notes Discussed on Rounds
   ICU Care
   Nutrition:  follow up speech and swallow
   Glycemic Control:  prn
   Lines:
   20 Gauge - [**2148-9-12**] 08:46 PM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer: PPI
   Communication:  with pt- will try to contact son
   [**Name (NI) 156**] status: Full code
   Disposition :call out

2148-09-14 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -S&S: rec-NPO for diet and meds [**1-13**] poor PO trial and possible
   aspiration given constant cough; f/u fluoroscopy shoed no aspiration of
   any textures, yet aspirate his own sectretions
 keep NPO over week and
   re-eval on Monday
   -NGT: attempt to place failed yest
   Pt continues to have productive (yellowish) cough, occ feels SOB after
   cough. Otherwise, no ON issues.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2148-9-13**] 08:00 AM
   Ceftazidime - [**2148-9-13**] 08:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-9-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough, Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2148-9-14**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 82 (75 - 103) bpm
   BP: 95/52(62) {85/35(50) - 113/62(72)} mmHg
   RR: 26 (12 - 36) insp/min
   SpO2: 96% 2-3L NC
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
             Total In:
                                                                  3,668 mL
                                                                    613 mL
   PO:
             TF:
   IVF:
                                                                  3,668 mL
                                                                    613 mL
   Blood products:
   Total out:
                                                                    660 mL
                                                                    140 mL
   Urine:
                                                                    660 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,008 mL
                                                                    473 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, A&0x1 (not to place or
   president), pleasant, speaking in partial sentences
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no MRG
   Resp: bil rhonchorus L>R, no wheezing.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, ND, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   290 K/uL
   8.8 g/dL
   105 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.6 mEq/L
   16 mg/dL
   107 mEq/L
   143 mEq/L
   25.9 %
   7.7 K/uL
        [image002.jpg]
   BAL ([**9-12**]): GS-GPCs in pairs and clusters; Prelim Cx-Staph A, coag+; no
   AFB
   Cdif neg ([**9-12**])
   BCx  NGTD
   UCx Yeast (8000/ml)
   CXR ([**9-13**]): no PTX, effusion, or mediastinal widening. Chronic
   hyperinflation, no change in mild residual atelectasis at right base,
   [**Last Name (un) 1443**] tt increase in consolidation or atelectasis at left since [**9-12**].
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
                             [**2148-9-5**]  04:05 AM
                             [**2148-9-6**]  04:16 AM
                             [**2148-9-8**]  05:23 AM
                             [**2148-9-9**]  05:30 AM
                             [**2148-9-13**]  01:25 AM
                             [**2148-9-13**]  03:23 PM
                             [**2148-9-14**]  02:51 AM
   WBC
   6.8
   6.3
   9.5
   9.3
   9.7
   9.4
   10.0
   7.7
   Hct
   29.8
   29.8
   32.7
   31.3
   31.1
   30.3
   28.4
   25.9
   Plt
   227
   282
   333
   [**Telephone/Fax (2) 1440**]90
   Cr
   1.0
   1.0
   1.1
   1.1
   1.2
   1.1
   1.3
   1.2
   1.2
   TCO2
   33
   Glucose
   90
   81
   93
   78
   81
   96
   87
   87
   105
   Other labs: PT / PTT / INR:14.5/34.6/1.3, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:61.3 %,
   Lymph:14.7 %, Mono:6.8 %, Eos:17.1 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   A/P:  87 yo male with history of MRSA PNA, TBM, and recent respiratory
   failure, now s/p Y-stenting and course of antibiotics, called out to
   floor multiple times but with repeat episodes of mucus plugging, now
   transferred back to the ICU for a likely mucus plug.  Called out
   yesterday, called back [**1-13**] to increased secretions.
   .
   #. Tachypnea/Hypoxia:  Currently much improved on 2L NC after deep
   suctioning by IP yesterday.  BAL Cx=staph aureus, coag + suggesting
   MRSA.  Pt with recent HCAP MRSA PNA, ongoing severe TBM, and copious
   secretions causing mucus plugging. Does have RLL infiltrate concerning
   for recurrent aspiration.
   -- NAC nebs, albuterol + ipratropium nebs standing
   -- guaifenacin standing
   -- chest PT
   -- frequent deep suctioning, ok'ed by IP
   -- HOB elevation, aspiration precautions
   -- continue vanco/ceftaz currently given persistent purulent
   secretions, fever, and RLL infiltrate on CXR.
   .
   # Fever:  Likely due to recurrent PNA.  No clear other source although
   has had 10-100K yeast on several urine cultures previously and it is
   unclear whether foley has been changed.   BC-NGTD; c. diff negative.
   -- continue empiric coverage with vanc/ceftaz
   -- f/u stool cx
   -- change foley catheter and remove asap when MS improves further
   .
   # Hypernatremia:  Resolving; Currently at 143. Likely due to NPO and
   inability to drink free water.
   -
   .
   # Delirium/dementia:  acute decompensation may be related to mucus plug
   and associated infection, through ongoing delirium is more related to
   prolonged hospital course and ICU stays.
   -- infectious workup as above
   -- prn zyprex and haldol
   -- encourage reorientation
   -- avoid benzos
   -- organic w/u (TSH, RPR, B12) is negative.
   .
   # CRI:  Mild with baseline creatinine 1.0-1.2 generally, resolving from
   yest, now at 1.2.  Again, as above, suspect free water down given above
   and will given IVFs as outlined. Completed D51/2NS 2L yest.
   -- IVF
   -- renally dose meds as indicated
   .
   #. Anemia: Currently at low of 25.9. In review of labs (granted only
   have labs beginning [**8-29**] in our system), baseline hct appears to run
   high 20s-low 30s.  Normal MCV, elevated RDW.  B12 and folate normal on
   this admission.  Iron studies not checked. Suspect largely AOCD.
   -- continue to monitor given stability in hct
   -- check iron studies
   .
   # FEN: S&S as above. pt removed his Dobhoff tube on the floor with
   failed attempt yest at NGT placement. He is thirsty and free water down
   as outlined above.  Clear concern for aspiration given mental status
   somewhat waxing/[**Doctor Last Name 226**] and RLL infiltrate.
   -- Speech and swallow eval on Monday
   -- Attempt NGT today
   -- NPO
   -- IVF.
   .
   # Access:
   -- PIVx2
   .
   # Ppx:
   -- Heparin SQ, no indication for PPI so will d/c.
   .
   # Code Status:
   -- Full Code, has been confirmed with HCP
   .
   # Contact Info: [**Name2 (NI) 838**]:  Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**]. Son ([**Known firstname **]) [**Telephone/Fax (1) 841**] (home)
   .
   # Dispo:  call out to floor however will absolutely need continued
   maintenance care including q2h suctioning and chest PT to prevent
   repeat mucous plugging.

2148-09-15 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   A Dopoff tube was placed yesterday.
   A foley was placed during which there was some bleeding that resolved.
   Pt removed his Dopoff tube over night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2148-9-14**] 09:00 AM
   Vancomycin - [**2148-9-14**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-15**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-9-15**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 81 (71 - 96) bpm
   BP: 111/76(83) {95/48(60) - 130/95(103)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
                  Total In:
                                                                  1,944 mL
                  PO:
                  TF:
   IVF:
                                                                  1,944 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    300 mL
   Urine:
                                                                    705 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,239 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, A&0x1 (not to place or
   president), pleasant, speaking in partial sentences
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), no MRG
   Resp: bil rhonchorus L>R, no wheezing.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, ND, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   290 K/uL
   8.8 g/dL
   105 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.6 mEq/L
   16 mg/dL
   107 mEq/L
   143 mEq/L
   25.9 %
   7.7 K/uL
        [image002.jpg]
                             [**2148-9-2**]  07:54 PM
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
                             [**2148-9-5**]  04:05 AM
                             [**2148-9-6**]  04:16 AM
                             [**2148-9-8**]  05:23 AM
                             [**2148-9-9**]  05:30 AM
                             [**2148-9-13**]  01:25 AM
                             [**2148-9-13**]  03:23 PM
                             [**2148-9-14**]  02:51 AM
   WBC
   6.8
   6.3
   9.5
   9.3
   9.7
   9.4
   10.0
   7.7
   Hct
   29.8
   29.8
   32.7
   31.3
   31.1
   30.3
   28.4
   25.9
   Plt
   227
   282
   333
   [**Telephone/Fax (2) 1440**]90
   Cr
   1.0
   1.0
   1.1
   1.1
   1.2
   1.1
   1.3
   1.2
   1.2
   TCO2
   33
   Glucose
   90
   81
   93
   78
   81
   96
   87
   87
   105
   Other labs: PT / PTT / INR:14.5/34.6/1.3, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:61.3 %,
   Lymph:14.7 %, Mono:6.8 %, Eos:17.1 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   A/P:  87 yo male with TBM s/p Y-stenting and recent respiratory failure
   secondary to MRSA-PNA; called out to floor multiple times but with
   repeat episodes of mucus plugging, now transferred back to the ICU for
   resp failure.
   #. MRSA PNA:  Recent h/o MRSA PNA, tachypnea, hypoxia, fever,
   infiltrate on CXR, BAL pos for MRSA. PNA also complicated by mucus
   plugging. Currently much improved on 2L NC after deep suctioning by
   IP/nursing. Vanco level subtherapeutic.
   -- NAC nebs, albuterol + ipratropium nebs standing; guaifenesin
   standing
   -- chest PT
   -- frequent deep suctioning, ok'ed by IP
   -- HOB elevation, aspiration precautions
   -- D/c ceftazidime as no report of aspiration related microbes by BAL
   cx
   -- Increase Vanco (Day #3) from q24 to q12hrs.
   -- CXR in am [**9-15**]
   # Fever:  Likely due to recurrent PNA.  Other etiology includes yeast
   infxn as 10-100K yeast on several urine cultures previously.
   BCx-NGTD; c. diff negative.
   -- continue vanco as above.
   -- f/u stool cx
   -- change foley catheter
   # Hypernatremia:  Resolving; Currently at 143. Previous elevated Na due
   to NPO and inability to drink free water.
   - Will follow daily lytes and replete as needed.
   # Hypokalemia: Borderline low.  Repleted this am.
   -Will follow daily lytes and replete as needed
   # Delirium/dementia:  acute decompensation may be related to mucus plug
   and associated infection, though ongoing delirium is more related to
   prolonged hospital course and ICU stays.
   -- infectious workup as above
   -- prn zyprex and haldol
   -- encourage reorientation
   -- avoid benzos
   -- organic w/u (TSH, RPR, B12) is negative.
   # CRI:  Creatinine within baseline range.
   -- IVF: D51/2NS at 75cc/hr
   -- renally dose meds as indicated
   #. Anemia: Currently at low of 25.9. baseline hct appears to run high
   20s-low 30s.  Anemia workup suggests ACD with possible underlying Fe
   deficiency considering low Fe.
   n        continue to monitor HCT
   n        would provide iron sulfate
   # FEN: NPO considering failed PO trial.
   -- Appreciate S&S.
   -- Speech and swallow re-eval on Monday
   -- Replace Dobhoff
   -- IVF: D51/2NS at 75cc/hr
   # Access:
   -- PIVx2
   # Ppx:
   -- Heparin SQ, no indication for PPI
   # Code Status:
   -- Full Code, has been confirmed with HCP
   # Contact Info: [**Name2 (NI) 838**]:  Health Care Proxy [**Telephone/Fax (1) 839**], cell
   [**Telephone/Fax (1) 840**]. Son ([**Known firstname **]) [**Telephone/Fax (1) 841**] (home)
   # Dispo:  Consider call out tomorrow if resp status continues to
   improve/remain stable. MICU care for now
   [**First Name8 (NamePattern2) 103**] [**Last Name (NamePattern1) 1450**] MSIV
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-9-14**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2148-09-15 11:29:00 Physician Attending Progress Note
Chief Complaint: resp distress
   HPI:
   24 Hour Events:
 CALLED OUT
   Dobhoff placed, but patient d/c'd it
   History obtained from [**Hospital 19**] Medical records, ICu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2148-9-14**] 09:00 AM
   Vancomycin - [**2148-9-15**] 08:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2148-9-15**] 08:52 AM
   Other medications:
   per [**Month (only) **] (reviewed on rounds): SQH, guaifenesin, nebs, vanco, NAC inh
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough
   Flowsheet Data as of  [**2148-9-15**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 81 (71 - 96) bpm
   BP: 107/51(61) {73/45(50) - 130/95(103)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.4 kg (admission): 79.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,944 mL
                                                                    200 mL
   PO:
             TF:
   IVF:
                                                                  1,944 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    725 mL
   Urine:
                                                                    705 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,239 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: ), decreased right
   base
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   320 K/uL
   87 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.5 mEq/L
   10 mg/dL
   105 mEq/L
   142 mEq/L
   25.9 %
   5.6 K/uL
        [image002.jpg]
                             [**2148-9-3**]  05:07 AM
                             [**2148-9-4**]  03:37 AM
                             [**2148-9-5**]  04:05 AM
                             [**2148-9-6**]  04:16 AM
                             [**2148-9-8**]  05:23 AM
                             [**2148-9-9**]  05:30 AM
                             [**2148-9-13**]  01:25 AM
                             [**2148-9-13**]  03:23 PM
                             [**2148-9-14**]  02:51 AM
                             [**2148-9-15**]  06:27 AM
   WBC
   6.8
   6.3
   9.5
   9.3
   9.7
   9.4
   10.0
   7.7
   5.6
   Hct
   29.8
   29.8
   32.7
   31.3
   31.1
   30.3
   28.4
   25.9
   25.9
   Plt
   227
   282
   333
   [**Telephone/Fax (2) 1474**]
   Cr
   1.0
   1.0
   1.1
   1.1
   1.2
   1.1
   1.3
   1.2
   1.2
   1.0
   Glucose
   90
   81
   93
   78
   81
   96
   87
   87
   105
   87
   Other labs: PT / PTT / INR:14.5/34.6/1.3, ALT / AST:17/18, Alk Phos / T
   Bili:56/0.6, Amylase / Lipase:138/, Differential-Neuts:61.3 %,
   Lymph:14.7 %, Mono:6.8 %, Eos:17.1 %, Lactic Acid:0.8 mmol/L,
   Albumin:3.0 g/dL, LDH:180 IU/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Imaging: CXR: increased right base opacity
   Assessment and Plan
   87 yr old man with recurrent respiratory distress.  He has improved
   under care during this ICU admission
   1.       Resp Distress: due to mucus plugging and inadequate pulmonary
   toilet, as well as Staph PNA.  BAL done by IP is growing Staph aureus.
   Treating with vanco, which needs levels followed to ensure correct
   dosing.  Increase vanco since trough is low. Disposition to pulmonary
   rehab vs. floor in next couple of days if stable.  Keep in ICU for now
   given recurrent bouncebacks.
   2.       Fevers: likely PNA as outlined above, since fever curve has
   improved
   3.       ARF: stable/improved
   4.       Delirium: in setting of infection
 trying to minimize meds
   and work with redirection
   5.       Nutrition: failed swallowing study.  Self d/[**Initials (NamePattern4) 1475**] [**Last Name (un) 1446**]-enteric
   feeding tube.  S/S to re-eval tomorrow.  If does not tolerate, place
   NGT.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-9-15**] 10:09 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor with oximetry monitoring